US05128356
Ethyl 1-(2'-cyanobiphenyl-4-yl)methyl -2-secbutylbenzimidazole-7-carboxylate
A mixture of ethyl 3-amino-2-[(2'-cyanobiphenyl-4-yl)methyl]aminobenzoate (1.1 g) and 2-methylbutyric anhydride (0.56 g) in pyridine (2 ml) was heated at 115° C. for 15 hours. The reaction mixture was digested with ethyl acetate (50 ml) and the solution was washed with water, dried and evaporated to dryness to give a syrup. The syrup was dissolved in ethanol (15 ml) containing conc. HCl (0.5 ml) and the solution was refluxed for 3 hours. After removal of the solvent, the resulting syrup was purified by column chromatography on silica gel to afford a pale yellow syrup (1.2 g, 92%).

reactant | ethyl 3-amino-2-[(2'-cyanobiphenyl-4-yl)methyl]aminobenzoate | 1.1 g | NC=1C(=C(C(=O)OCC)C=CC1)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C23H21N3O2
reactant | 2-methylbutyric anhydride | 0.56 g | CC(C(=O)OC(C(CC)C)=O)CC | C10H18O3
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | HCl | 0.5 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | Ethyl 1-(2'-cyanobiphenyl-4-yl)methyl -2-secbutylbenzimidazole-7-carboxylate | 1.2 g, 92% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C(=CC=C2)C(=O)OCC)C(C)CC | C28H27N3O2
